US08809324B2
(2-Carbamoylhexahydro-2,5-methanopentalen-3a-yl)carbamic acid tert-butyl ester
3a-tert-Butoxycarbonylaminohexahydro-2,5-methanopentalene-2-carboxylic acid was dissolved in DMF (200 ml), and DIPEA (10.6 g) and ammonia (6.1 ml, 7M in MeOH) were added. Subsequently, HATU (14.8 g) was added and the mixture was stirred at room temperature for 2 h. The reaction solution was concentrated by rotary evaporation down to volume 50 ml, poured into 400 ml of dilute NaHCO3 solution (300 ml of H2O+100 ml of saturated NaHCO3 solution) and extracted 3 times with 100 ml of EtOAc. Then dried over MgSO4, filtered and concentrated by rotary evaporation.

reactant | 3a-tert-Butoxycarbonylaminohexahydro-2,5-methanopentalene-2-carboxylic acid | C(C)(C)(C)OC(=O)NC12CC3(CC2CC(C1)C3)C(=O)O | C15H23NO4
reactant | DIPEA | 10.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonia | 7M, 6.1 ml | N | H3N
reactant | HATU | 14.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | (2-Carbamoylhexahydro-2,5-methanopentalen-3a-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC12CC3(CC2CC(C1)C3)C(N)=O)=O | C15H24N2O3
